US08466282B2
Tert-butyl (3S,5R)-3-[({1-(2-fluorophenyl)-5-[(2-methoxyethoxy)methyl]-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
tert-Butyl (3S,5R)-3-[{[1-(2-fluorophenyl)-5-(hydroxymethyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (510 mg) and triethylamine (365 μl) were dissolved in THF (8 ml), and methanesulfonyl chloride (110 μl) was added under ice-cooling. The mixture was stirred at 0° C. for 3 hr, 2-methoxyethanol (200 mg) was added and the mixture was stirred at room temperature for 14 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (10:90-100:0) was concentrated under reduced pressure to give the object product (491 mg).

reactant | tert-Butyl (3S,5R)-3-[{[1-(2-fluorophenyl)-5-(hydroxymethyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 510 mg | FC1=C(C=CC=C1)N1N=NC(=C1CO)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C29H41FN6O6
reactant | triethylamine | 365 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 110 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-methoxyethanol | 200 mg | COCCO | C3H8O2
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Tert-butyl (3S,5R)-3-[({1-(2-fluorophenyl)-5-[(2-methoxyethoxy)methyl]-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 491 mg | FC1=C(C=CC=C1)N1N=NC(=C1COCCOC)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C32H47FN6O7
